US08492549B2
Methanesulfonic acid (S)-3-(2,6-dimethoxy-phenoxy)-2-methanesulfonyloxy-propyl ester
(R)-3-(2,6-Dimethoxyphenoxy)propane-1,2-diol (2.26 g, 9.90 mmol) in dichloromethane (20 ml) was cooled to 0° C. and stirred under nitrogen atmosphere. Triethyl amine (2.94 g, 29.00 mmol) was added in 15 min. Methanesulfonic acid chloride (2.61 g, 21.80 mmol) was added, and the mixture was stirred at +25° C. for 3 h. Dichloromethane (20 ml) and 1 M NaHSO4 solution (10 ml) were added and the layers were separated. Organic layer was washed with 1 M NaHSO4 solution (10 ml), water (10 ml) and saturated sodium chloride solution (10 ml), dried (Na2SO4), filtered and evaporated to dryness to give 3.08 g of the title compound.

reactant | (R)-3-(2,6-Dimethoxyphenoxy)propane-1,2-diol | 9.90 mmol, 2.26 g | COC1=C(OC[C@@H](CO)O)C(=CC=C1)OC | C11H16O5
reactant | Triethyl amine | 29.00 mmol, 2.94 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonic acid chloride | 21.80 mmol, 2.61 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHSO4 | 1 M, 10 ml | OS(=O)(=O)[O-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid (S)-3-(2,6-dimethoxy-phenoxy)-2-methanesulfonyloxy-propyl ester | 3.08 g | COC1=C(OC[C@@H](COS(=O)(=O)C)OS(=O)(=O)C)C(=CC=C1)OC | C13H20O9S2
